US04933367
A mixture of 5.6 g (17 mmol) of ethyl 2-bromo-7-(4-chloro-phenyl)heptanoate, 1.82 g (17 mmol) of p-cresol, 7.0 g (50 mmol) of potassium carbonate and 70 ml of butanone is heated for 36 h at the refluxing temperature. Then the inorganic precipitate is removed on a suction filter and the filtrate is concentrated. The residue is taken up in ether, the solution washed twice with 0.5N caustic soda solution, dried and concentrated by evaporation. The residual oil is chromatographed with toluene on silica gel. 5.3 g (86% of theory) is obtained of ethyl 7-(4-chloro-phenyl)-2-(4-methylphenoxy)heptanoate, a colorless oil.

reactant | ethyl 2-bromo-7-(4-chloro-phenyl)heptanoate | 17 mmol, 5.6 g | BrC(C(=O)OCC)CCCCCC1=CC=C(C=C1)Cl | C15H20BrClO2
reactant | p-cresol | 17 mmol, 1.82 g | C1=CC(=CC=C1O)C | C7H8O
reactant | potassium carbonate | 50 mmol, 7.0 g | C([O-])([O-])=O.[K+].[K+]
solvent | butanone | 70 ml | CC(CC)=O | C4H8O
product | ethyl 7-(4-chloro-phenyl)-2-(4-methylphenoxy)heptanoate | ClC1=CC=C(C=C1)CCCCCC(C(=O)OCC)OC1=CC=C(C=C1)C | C22H27ClO3
